US07696223B2
b) 4-Acetoxy-3-chloro-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A solution of 4-acetoxy-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (0.44 g, 1.28 mmol) and N-chlorosuccinimide (0.188 g, 1.41 mmol) in 8 mL of N,N′-dimethylformamide was heated at 100° C. for 1 h. Ethyl acetate (100 mL) was added. The organic solution was washed with water, dried over anhydrous sodium sulfate, and concentrated. The crude produce was purified by flash chromatography from silica gel with a gradient of 0-40% ethyl acetate in hexanes to afford 0.27 g of the title compound as a white solid. MS: (+) m/z 378.3 (M+1).

reactant | 4-acetoxy-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.28 mmol, 0.44 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CCC(C)C)OC(C)=O | C18H21N3O4
reactant | N-chlorosuccinimide | 1.41 mmol, 0.188 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N′-dimethylformamide | 8 mL | CN(C)C=O | C3H7NO
product | 4-Acetoxy-3-chloro-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.27 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)CCC(C)C)OC(C)=O | C18H20ClN3O4
